US06706725B1
c) (E)-3-{5-[3,4-bis(tert-Butyldimethylsilanyloxy-methyl)phenoxymethyl]-2-thienyl}pent-2-enal
2.74 g (5.1 mmol) of (E)-3-{5-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-2-thienyl}pent-2-en-1-ol are dissolved in 80 mL of dichloromethane and placed under a nitrogen atmosphere. 4.45 g (51 mmol) of manganese dioxide are added and the medium is stirred for 14 hours. After filtration and then evaporation, a yellow oil is obtained. The crude product (2.9 g) is the expected aldehyde, obtained in a quantitative yield.

reactant | (E)-3-{5-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-2-thienyl}pent-2-en-1-ol | 5.1 mmol, 2.74 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC2=CC=C(S2)/C(=C/CO)/CC)C=CC1CO[Si](C)(C)C(C)(C)C | C30H50O4SSi2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 51 mmol, 4.45 g | [O-2].[O-2].[Mn+4]
product | (E)-3-{5-[3,4-bis(tert-Butyldimethylsilanyloxy-methyl)phenoxymethyl]-2-thienyl}pent-2-enal | quantitative yield | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC2=CC=C(S2)/C(=C/C=O)/CC)C=CC1CO[Si](C)(C)C(C)(C)C | C30H48O4SSi2
